US05641430
Preparation of trans-4-(2,3-difluoro-4-ethoxyphenyloxymethyl)-1-n-heptyl-1-silacyclohexane
The general procedure of Example 9 was repeated using 2,3-difluoro-4-ethoxyphenol and 4-bromomethyl-1-n-heptyl-1-phenyl-1-silacyclohexane, thereby obtaining the intended compound.

reactant | 2,3-difluoro-4-ethoxyphenol | FC1=C(C=CC(=C1F)OCC)O | C8H8F2O2
reactant | 4-bromomethyl-1-n-heptyl-1-phenyl-1-silacyclohexane | BrCC1CC[Si](CC1)(C1=CC=CC=C1)CCCCCCC | C19H31BrSi
product | trans-4-(2,3-difluoro-4-ethoxyphenyloxymethyl)-1-n-heptyl-1-silacyclohexane | FC1=C(C=CC(=C1F)OCC)OC[C@@H]1CC[Si@H](CC1)CCCCCCC | C21H34F2O2Si
